US07323455B2
4-Methyl-5-(5-methyl-2-oxo-5-thien-2-yl-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)thiophene-2-carbonitrile
Prepared from 7-bromo-5-methyl-5-thien-2-yl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one and 5-bromo4-methylthiophene-2-carbonitrile generally according to the coupling procedure described in examples 82 and 1. 1H-NMR (DMSO-d6) δ 10.26 (s, 1H), 7.83 (s, 1H), 7.56 (dd, J=4.9, 1.1 Hz, 1H), 7.47 (dd, J=8.5, 2.2 Hz, 1H), 7.32 (d, J=2.2 Hz, 1H), 7.29 (d, J=8.5 Hz, 1H), 7.00 (m, 1H), 6.96 (m, 1H), 4.23 (d, J=15.9 Hz, 1H), 4.13 (d, J=15.9 Hz, 1H), 2.19 (s, 3H), 2.03 (s, 3H); MS (ES) m/z 381 (M+H)+; Anal. Calc. For C20H16N2O2S2: C, 63.14; H, 4.24; N, 7.36. Found: C, 62.85; H, 4.16; N, 7.09.

reactant | 7-bromo-5-methyl-5-thien-2-yl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one | BrC=1C=CC2=C(C(OCC(N2)=O)(C=2SC=CC2)C)C1 | C14H12BrNO2S
reactant | 5-bromo4-methylthiophene-2-carbonitrile | BrC1=C(C=C(S1)C#N)C | C6H4BrNS
product | 4-Methyl-5-(5-methyl-2-oxo-5-thien-2-yl-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)thiophene-2-carbonitrile | CC=1C=C(SC1C=1C=CC2=C(C(OCC(N2)=O)(C=2SC=CC2)C)C1)C#N | C20H16N2O2S2
